US09102662B2
Preparation of 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoic acid trifluoroacetate
Tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoate (480 mg, 1 mmol) was dissolved in 20 ml of DCM. Anhydrous HCl 4M in dioxane was added (2.5 ml, 10 mmol). The reaction was stirred at room temperature for 5 days after that the HPLC analysis showed the formation of the desired product but with almost 30% of the detrifluoroacetylated by-product. Solvents were removed under vacuum and the resulting yellow powder was suspended in 15 ml of DCM and TFAA (0.28 ml, 2 mmol) was added. The solid immediately dissolved and the mixture was stirred for 2 hours after that the HPLC analysis showed the complete disappearance of the by product. Solvents were evaporated to dryness to yield a dark yellow solid which was used in the next synthetic step without any further purification.

reactant | Tert-butyl 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoate | 1 mmol, 480 mg | CN1[C@@H](CCC1)COC1=CC(=C(C(=O)OC(C)(C)C)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | C24H33F3N2O5
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | O1CCOCC1 | C4H8O2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-{[(2S)-1-methylpyrrolidin-2-yl]methoxy}-2-[tetrahydro-2H-pyran-4-yl(trifluoroacetyl)amino]benzoic acid trifluoroacetate | FC(C(=O)O)(F)F.CN1[C@@H](CCC1)COC1=CC(=C(C(=O)O)C=C1)N(C(C(F)(F)F)=O)C1CCOCC1 | InChI=1S/C20H25F3N2O5.C2HF3O2/c1-24-8-2-3-14(24)12-30-15-4-5-16(18(26)27)17(11-15)25(19(28)20(21,22)23)13-6-9-29-10-7-13;3-2(4,5)1(6)7/h4-5,11,13-14H,2-3,6-10,12H2,1H3,(H,26,27);(H,6,7)/t14-;/m0./s1
